US06451814B1
(5-Bromo-1H-indol-2-yl)-[4-(4-{2-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidin-1-yl]-methanone
{4-[4-(2-Aminoethyl)anilino]-1-piperidinyl}(5-bromo-1H-indol-2-yl)methanone (0.160 g, 0.363 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.15 g, 0.37 mmol) according to Procedure G to give the title compound (0.119 g, 0.141 mmol).

reactant | {4-[4-(2-Aminoethyl)anilino]-1-piperidinyl}(5-bromo-1H-indol-2-yl)methanone | 0.363 mmol, 0.160 g | NCCC1=CC=C(NC2CCN(CC2)C(=O)C=2NC3=CC=C(C=C3C2)Br)C=C1 | C22H25BrN4O
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.37 mmol, 0.15 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
product | (5-Bromo-1H-indol-2-yl)-[4-(4-{2-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidin-1-yl]-methanone | 0.141 mmol, 0.119 g | BrC=1C=C2C=C(NC2=CC1)C(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C31H35BrN4O4
